US08497368B2
(E)-6-((6-(1-(2-Ethylhydrazono)ethyl)imidazo[1,2-b]pyridazin-3-yl)methyl)-7-fluoroquinoline
The title compound was prepared from ethyl hydrazine and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 32% yield. 1H-NMR (400 MHz, MeOH -d4) δ ppm 8.81 (dd, 1H), 8.27 (d, 1H), 7.92 (d, 1H), 7.88 (d, 1H), 7.78 (d, 1H), 7.69 (d, 1H), 7.54 (s, 1H), 7.47 (q, 1H), 4.59 (s, 2H), 3.38 (q, 2H), 2.13 (s, 3H), 1.22 (t, 3H). LCMS (method A): [MH]+=363, tR=5.32 min.

reactant | ethyl hydrazine | C(C)NN | C2H8N2
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-6-((6-(1-(2-Ethylhydrazono)ethyl)imidazo[1,2-b]pyridazin-3-yl)methyl)-7-fluoroquinoline | 32% yield | C(C)N\N=C(/C)\C=1C=CC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2F | C20H19FN6
